US07951950B2
1-(4-Methoxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinoline-4-carboxylic acid (2.00 g, 6.15 mmol) was suspended in methylene chloride (50 mL). One drop of dimethylformamide was added, followed by oxalyl chloride (1.56 g, 1.07 mL, 12.3 mmol). The suspension became homogeneous on stirring. After 2 hours, the yellow solution was concentrated under reduced pressure and azeotroped with toluene. To a solution of the resulting acid chloride (120 mg, 349 mmol) in methylene chloride (1 mL) was added diisopropylethylamine (451 uL, 0.349 mmol), followed by ethyl-benzyl-amine (71 mg, 77 uL, 0.523 mmol). The mixture was shaken overnight at room temperature. Upon completion, the reaction was diluted with ethyl acetate, washed with saturated sodium bicarbonate (aqueous) and brine, dried over sodium sulfate, filtered and concentrated to afford the crude amide. Purification by silica gel chromatography (elution with a hexane/ethyl acetate gradient) afforded pure (±)-trans-1-(4-methoxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinoline-4-carboxylic acid benzyl-ethyl-amide (53 mg, 34%). 1H-NMR (CDCl3) δ: 0.98 (d, 3H), 1.13 (t, 3H), 1.74 (ddd, 1H), 2.52 (ddd, 1H), 3.62-3.92 (m, 8H), 5.03-5.13 (m, 1H), 6.44 (d, 1H), 6.72-6.84 (m, 4H), 6.86-6.92 (m, 1H), 7.19-7.23 (m, 2H), 7.43-7.54 (m, 4H). MS m/z: 443 (M+1).

reactant | 1-(4-Methoxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinoline-4-carboxylic acid | 6.15 mmol, 2.00 g | COC1=CC=C(C(=O)N2C(CC(C3=CC=CC=C23)C(=O)O)C)C=C1 | C19H19NO4
reactant | oxalyl chloride | 12.3 mmol, 1.07 mL, 1.56 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | diisopropylethylamine | 0.349 mmol, 451 uL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethyl-benzyl-amine | 0.523 mmol, 77 uL, 71 mg | C(C)NCC1=CC=CC=C1 | C9H13N
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | dimethylformamide | One drop | CN(C=O)C | C3H7NO
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (±)-trans-1-(4-methoxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinoline-4-carboxylic acid benzyl-ethyl-amide | 53 mg, 34% | C(C1=CC=CC=C1)N(C(=O)[C@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)OC)=O)C)CC | C28H30N2O3
